US09227971B2
Step A—Synthesis of 2-(5-bromo-3-fluoropyridin-2-yl)propan-2-ol
To 2,5-dibromo-3-fluoropyridine in toluene at −78° C. was added n-butyllithium drop wise. The resulting solution was stirred at −78° C. for 1.5 hours. Then at −78° C., added acetone drop wise to the reaction mixture and continue to stir reaction at −78° C. for 2 hours at which point LC-MS and TLC indicated the reaction was complete. The reaction was warmed to 0° C. and quenched with saturated ammonium chloride solution (aq.) and then diluted with water (50 mL) and extracted with ethyl acetate (2×100 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo to afford crude product. Gradient column chromatography on silica eluting with 0 to 30% EtOAc/hexanes gave the desired product (1.04 g).

reactant | 2,5-dibromo-3-fluoropyridine | BrC1=NC=C(C=C1F)Br | C5H2Br2FN
reactant | n-butyllithium | C(CCC)[Li]
reactant | acetone | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromo-3-fluoropyridin-2-yl)propan-2-ol | 1.04 g | BrC=1C=C(C(=NC1)C(C)(C)O)F | C8H9BrFNO
